US05849755
44 g (300 mmol) of sodium iodide and 38 ml (300 mmol) of chlorotrimethylsilane were added to 19.6 g (50 mmol) of 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanol in 120 ml of acetonitrile. The temperature rose temporarily to 32° C. After the mixture had been stirred at about 25° C. for three hours, it was poured into ice/water, decolorized with concentrated sodium bisulfite solution and extracted several times with methylene chloride. The combined organic solutions were washed with water, dried and evaporated and the residue was chromatographed over a silica gel column using methylene chloride/ethyl acetate 95:5. The 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxychroman was obtained as an oil.

reactant | sodium iodide | 300 mmol, 44 g | [I-].[Na+]
reactant | chlorotrimethylsilane | 300 mmol, 38 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxy-4-chromanol | 50 mmol, 19.6 g | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=CC=C3C2O)OC)(C)C)C1)OC | C20H22ClNO5
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetonitrile | 120 ml | C(C)#N | C2H3N
product | 3-(5-chloro-2-methoxybenzamido)-2,2-dimethyl-7-methoxychroman | ClC=1C=CC(=C(C(=O)NC2C(OC3=CC(=CC=C3C2)OC)(C)C)C1)OC | C20H22ClNO4
